US07786165B2
2′,6′-dimethylbiphenyl-3-carbaldehyde
3-Bromobenzaldehyde (18.5 g, 100 mmol) and 2,6-dimethylphenylboronic acid (21.0 g, 140 mmol) were dissolved in a mixture of 1 M aqueous sodium carbonate solution (200 mL), ethanol (100 mL) and toluene (200 mL). The air was substituted with argon gas, and tetrakis(triphenylphosphine)palladium(0) (5.78 g, 5.00 mmol) was added. The reaction mixture was stirred under an argon atmosphere at 80° C. for 20 hr. After cooling the reaction mixture, water was added and the mixture was diluted with ethyl acetate. The insoluble material was filtered off through celite. The organic layer in the filtrate was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-10% ethyl acetate/hexane) to give the title compound (20.4 g, yield 97%) as a colorless oil.

reactant | 3-Bromobenzaldehyde | 100 mmol, 18.5 g | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | 2,6-dimethylphenylboronic acid | 140 mmol, 21.0 g | CC1=C(C(=CC=C1)C)B(O)O | C8H11BO2
reactant | water | O | H2O
solvent | sodium carbonate | 1 M, 200 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 5.00 mmol, 5.78 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2′,6′-dimethylbiphenyl-3-carbaldehyde | 20.4 g, yield 97% | CC1=C(C(=CC=C1)C)C1=CC(=CC=C1)C=O | C15H14O
